US03962420
EXAMPLE VIII -- MACRORETICULAR DIVINYL BENZENE/METHACRYLATE RESIN
To a one liter three neck round bottom flask is added 337 g. water (33 g.), Pharmagel (0.7 g.) (a commercial low molecular weight protein), boric acid (1.05 g.), sodium chloride (3.5 g.) and Padmac (7.7 g.) (a cyclo polymer of dimethyl diallyl ammonium chloride). The pH is adjusted to 10-10.5 using sodium hydroxide. To this is added divinyl benzene (78.5 g.), trimethylol propane trimethacrylate (26.25 g.), benzoyl peroxide (0.9 g.) and toluene (245 g.). The two phases are emulsified and heated to 80° C. over a 11/2 hour period under nitrogen with stirring at 200 rpm. The organic phase is then removed by azeotroping. The beads obtained are washed with methanol and water. Finally, the resin beads are dried to about 40% water, ground and sieved to desired particle size.

reactant | boric acid | 1.05 g | B(O)(O)O | BH3O3
reactant | sodium chloride | 3.5 g | [Cl-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | divinyl benzene | 78.5 g | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | trimethylol propane trimethacrylate | 26.25 g | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C(O)C(CC)(CO)CO
reactant | benzoyl peroxide | 0.9 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | dimethyl diallyl ammonium chloride | [Cl-].C[N+](CC=C)(CC=C)C
solvent | toluene | 245 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 33 g | O | H2O
product | DIVINYL BENZENE METHACRYLATE | C(=C)C1=C(C=CC=C1)C=C.C(C(=C)C)(=O)[O-] | InChI=1S/C10H10.C4H6O2/c1-3-9-7-5-6-8-10(9)4-2;1-3(2)4(5)6/h3-8H,1-2H2;1H2,2H3,(H,5,6)/p-1
